US08114872B2
5-Cyclopropyl-2-fluoro-pyridine
Combine 2-fluoro-5-iodo-pyridine (1.12 g, 5 mmol), cyclopropylboronic acid (645 mg, 7.5 mmol), palladium acetate (56 mg, 0.25 mmol) and potassium phosphate (3.2 g, 15 mmol) in toluene/water (20:1, 21 mL). Heat the mixture at 100° C. for 4 h. Dilute the mixture with chloroform-IPA (3:1, 100 mL). Wash the organic phase with saturated aqueous sodium chloride and water. Dry the mixture over sodium sulfate. Concentrate the solution in vacuo to a brown oil. Purify by column chromatography (20% ethyl acetate in hexane) to afford the title compound as a pale yellow oil (430 mg, 63%).

reactant | 2-fluoro-5-iodo-pyridine | 5 mmol, 1.12 g | FC1=NC=C(C=C1)I | C5H3FIN
reactant | cyclopropylboronic acid | 7.5 mmol, 645 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 15 mmol, 3.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene water | 21 mL | C1(=CC=CC=C1)C.O
solvent | chloroform IPA | 100 mL | C(Cl)(Cl)Cl.CC(C)O
catalyst | palladium acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Cyclopropyl-2-fluoro-pyridine | 430 mg, 63% | C1(CC1)C=1C=CC(=NC1)F | C8H8FN
